US04939126
N-[2-[(isopropyl)[2-[(methyl)(trimethylsilylmethyl)amino]ethyl]amino]ethyl]-2oxo-1-pyrrolidineacetamide
A mixture of 8.71 g (30.7 mmol) of N-[2-[(isopropyl)[2-(methylamino)ethyl]amino]ethyl]-2-oxo-1-pyrrolidineacetamide and 3.76 g (30.7 mmol) of trimethylsilylmethyl chloride was stirred at 80°-90° C. for 30 hours. The reaction mixture was neutralized with methanol solution of NaOH and concentrated in vacuo. The residue was chromatographed on alumina column and distilled in vacuo to afford 3.20 g (Yield: 28.1%) of the desired compound.

reactant | N-[2-[(isopropyl)[2-(methylamino)ethyl]amino]ethyl]-2-oxo-1-pyrrolidineacetamide | 30.7 mmol, 8.71 g | C(C)(C)N(CCNC(CN1C(CCC1)=O)=O)CCNC | C14H28N4O2
reactant | trimethylsilylmethyl chloride | 30.7 mmol, 3.76 g | C[Si](C)(C)CCl | C4H11ClSi
reactant | NaOH | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | N-[2-[(isopropyl)[2-[(methyl)(trimethylsilylmethyl)amino]ethyl]amino]ethyl]-2oxo-1-pyrrolidineacetamide | 3.20 g, Yield: 28.1% | C(C)(C)N(CCNC(CN1C(CCC1)=O)=O)CCN(C[Si](C)(C)C)C | C18H38N4O2Si
